US07241887B2
2-Methoxy-ethanesulfonic acid [3-(3-benzyl-8-hydroxy-3-aza-bicyclo[3.2.1]oct-8-yl)-phenyl]-amide
8-(3-Amino-phenyl)-3-benzyl-3-aza-bicyclo[3.2.1]octan-8-ol (1.63 g, 5.28 mmol) stirred in pyridine (20 ml) at 0° C. was charged with 2-methoxy-ethanesulfonyl chloride (1.26 g, 7.93 mmol) dropwise causing a color change from yellow to bright orange. The reaction was warmed to room temperature and judged complete by TLC after 1 h. Following addition of water (20 ml), the product was extracted with EtOAc (4×30 ml), washed with saturated aqueous NaCl solution (6×30 ml), dried over Na2SO4, filtered and concentrated to a crude red oil (2.37 g, >100%). 1H NMR (400 MHz, CDCl3) δ 7.35–7.10 (m, 4H), 3.78 (ddd, J=7.5, 3.3, 2.1 Hz, 2H), 3.59 (s, 2H), 3.36 (d, J=2.5 Hz, 3H), 3.17, (m, 2H), 2.85 (d, J=16.3 Hz, 3H), 2.61 (d, J=8.3 Hz, 2H), 2.36 (s, 2H), 1.79 (d, J=7.0 Hz, 2H), 1.37 (d, J=10.0 Hz, 2H); APCI MS m/z 431.2 (M+1)+.

reactant | 8-(3-Amino-phenyl)-3-benzyl-3-aza-bicyclo[3.2.1]octan-8-ol | 5.28 mmol, 1.63 g | NC=1C=C(C=CC1)C1(C2CN(CC1CC2)CC2=CC=CC=C2)O | C20H24N2O
reactant | 2-methoxy-ethanesulfonyl chloride | 7.93 mmol, 1.26 g | COCCS(=O)(=O)Cl | C3H7ClO3S
reactant | water | 20 ml | O | H2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-Methoxy-ethanesulfonic acid [3-(3-benzyl-8-hydroxy-3-aza-bicyclo[3.2.1]oct-8-yl)-phenyl]-amide | C(C1=CC=CC=C1)N1CC2CCC(C1)C2(O)C=2C=C(C=CC2)NS(=O)(=O)CCOC | C23H30N2O4S
